US07060827B2
To a magnetically stirred solution of 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine (0.25 g, 0.89 mmol) in ethylene glycol (3.0 mL) under nitrogen at room temperature was added N,N-diisopropylethylamine (0.12 g, 0.89 mmol) followed by 4-hexyloxyaniline (0.27 g, 1.4 mmol). The reaction mixture was heated to 170° C. for 5.5 h, cooled to room temperature and partitioned between water (20 mL) and chloroform (20 mL). The aqueous layer was extracted with chloroform (20 mL) and the combined organic layers were dried (Na2SO4), filtered and concentrated in vacuo. The crude brown solid was purified by chromatography (silica gel, 2:1 hexanes/ethyl acetate) to afford N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(4-n-hexyloxyphenyl)-2,4-pyrimidindiamine (0.09 g, 23%) as a white solid: Rf0.53 (silica gel, 4:1 chloroform/ethyl acetate); mp 115–117° C.; 1H NMR (500 MHz, CDCl3) δ 7.90 (d, J=3.2 Hz, 1H), 7.40 (d, J=8.9 Hz, 2H), 7.29 (d, J=2.5 Hz, 2H), 6.98 (d, J=8.8 Hz, 1H), 6.88–6.82 (m, 3H), 6.61 (s, 1H), 4.29 (d, J=3.1 Hz, 4H), 3.94 (t, J=6.6, 6.7 Hz, 2H), 1.77 (m, 2H), 1.47 (m, 2H), 1.35 (m, 4H), 0.92 (m, 3H); 13C NMR (75 MHz, CDCl3) δ 156.3, 155.1, 150.3, 143.6, 142.7, 140.3, 140,07 139.4, 133.0, 131.7, 121.9, 117.3, 115.0, 114.7, 110.8, 68.6, 64.6, 31.8, 29.5, 25.9, 22.8, 14.2; IR (ATR) 3357 cm−1; ESI MS m/z 439 [C24H27FN4O3+H]+; HPLC (Method B) 98.5% (AUC), tR=7.9 min. Anal. Calcd for C24H27FN4O3: C, 65.74; H, 6.21; N, 12.78. Found: C, 65.34; H, 6.19; N, 12.96.

reactant | 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine | 0.89 mmol, 0.25 g | ClC1=NC=C(C(=N1)NC1=CC2=C(C=C1)OCCO2)F | C12H9ClFN3O2
reactant | N,N-diisopropylethylamine | 0.89 mmol, 0.12 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-hexyloxyaniline | 1.4 mmol, 0.27 g | C(CCCCC)OC1=CC=C(N)C=C1 | C12H19NO
solvent | ethylene glycol | 3.0 mL | C(CO)O | C2H6O2
product | N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(4-n-hexyloxyphenyl)-2,4-pyrimidindiamine | 0.09 g, 23% | C1OC=2C=C(C=CC2OC1)NC1=NC(=NC=C1F)NC1=CC=C(C=C1)OCCCCCC | C24H27FN4O3
